US06833378B2
2-[4-Chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylmethyl]-malonic acid dimethyl ester
The title compound was prepared by reacting 4-chloro-3-chloromethyl-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine with dimethyl malonate/NaH in methanol. The title compound was isolated as a colorless oil.

reactant | 4-chloro-3-chloromethyl-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine | ClC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)CCl | C16H17Cl2NO
reactant | dimethyl malonate NaH | C(CC(=O)OC)(=O)OC.[H-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[4-Chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylmethyl]-malonic acid dimethyl ester | COC(C(C(=O)OC)CC=1C(=NC(=CC1Cl)C)OC1=C(C=C(C=C1C)C)C)=O | C21H24ClNO5
